US06545009B1
In the same manner as in Example 1, methyl 3-carbamoylbenzoate was reacted with 4-trifluoromethylphenacyl bromide to obtain methyl 3-[4-(4-trifluoromethylphenyl)-2-oxazolyl]benzoate. The product was recrystallized from ethanol. Yield: 30%. Pale yellow prisms. Melting Point: 151 to 152° C.

reactant | methyl 3-carbamoylbenzoate | C(N)(=O)C=1C=C(C(=O)OC)C=CC1 | C9H9NO3
reactant | 4-trifluoromethylphenacyl bromide | FC(C1=CC=C(C(CBr)=O)C=C1)(F)F | C9H6BrF3O
product | methyl 3-[4-(4-trifluoromethylphenyl)-2-oxazolyl]benzoate | Yield: 30% | FC(C1=CC=C(C=C1)C=1N=C(OC1)C=1C=C(C(=O)OC)C=CC1)(F)F | C18H12F3NO3
